datasets/10k__Tet_Int.csv
SMILES Labelled
"[O-:21][C:20]1([H])C(O)C([H])C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[OH:21][C:20]1(C)[OH+:10]C(C)C([H])=C1[H]>>[OH:10]C(C)/C([H])=C([C:20](C)=[OH+:21])/[H] 21=20;20,10=10"
"C[S:10][H].C[O+:21]=[C:20]([O]CC)[S]CC.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O]CC)[S]CC 10=20;20,21=21"
"[H][S:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][S+:10]([H])[C:20]([O:21][H])([O][H])[S]CC.[Cl-]>>[Cl-].[H][S:10][H].[H][O+:21]=[C:20]([O][H])[S]CC 21=20;20,10=10"
"[OH:21][C:20]1(C)C([H])C([H])C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)C([H])C([H])[C:20](C)=[OH+:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]C)C)[H]>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]C 10=20;20,21=21"
"CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C)[H]>>CCC1C(C(O[C:20](=[O:10])N1[H])C)[H].[O-:21]CCCCCC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CCCCCC)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][NH:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[O-:10]C(CC)C([H])C([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O:10]C(CC)C([H])C1C 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)C)C)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)C)CC 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H] 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[S:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]C)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]C)[O]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21]CC)[NH]C(C)C([H])[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH]C(C)C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CC)CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CC)CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21][H])([S][H])[S][H].[Cl-]>>[Cl-].[H][O:10][H].[H][O+:21]=[C:20]([S][H])[S][H] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10]([H])C(C)C([H])C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C([H])C(C)[NH+:10]1([H]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)CCCCCC)CC.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])CCCCCC)CC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O]C([H])C([H])[NH]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]([O:21]C)([S]CC)[S]C.[Cl-]>>[Cl-].[H][O:10][H].C[O+:21]=[C:20]([S]CC)[S]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])CCCCCC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])CCCCCC 10=20;20,21=21"
